US08563565B2
(2) Synthesis of (3SR,4RS)-4-hydrazinyltetrahydrofuran-3-ol hydrochloride
A 4 M hydrogen chloride-1,4-dioxane solution (50 mL) was added to a solution of t-butyl 2-((3RS,4SR)-4-hydroxytetrahydrofuran-3-yl)hydrazinecarboxylate (5.78 g) in methanol (30 mL) under ice-cooling, and the mixture was then warmed to room temperature and stirred overnight. The reaction mixture was concentrated to give the title compound (5 g).

reactant | hydrogen chloride-1,4-dioxane | 4 M, 50 mL | O1CCOCC1.Cl
reactant | t-butyl 2-((3RS,4SR)-4-hydroxytetrahydrofuran-3-yl)hydrazinecarboxylate | 5.78 g | OC1C(COC1)NNC(=O)OC(C)(C)C | C9H18N2O4
solvent | methanol | 30 mL | CO | CH4O
product | (3SR,4RS)-4-hydrazinyltetrahydrofuran-3-ol hydrochloride | 5 g | Cl.N(N)C1C(COC1)O | InChI=1S/C4H10N2O2.ClH/c5-6-3-1-8-2-4(3)7;/h3-4,6-7H,1-2,5H2;1H
